US07034039B2
To a solution of 4-butoxy-3-[[(tert-butoxycarbonyl)amino]methyl]-2-cyclopropylmethyl-1-oxo-1,2-dihydro-6-isoquinolinecarboxamide (0.27 g, 0.6 mmol) in ethyl acetate (5 mL) was added a solution of 4N hydrogen chloride in ethyl acetate (5 mL) and the obtained solution was stirred at room temperature for 1 h. The reaction mixture was concentrated under reduced pressure, and the precipitated crystals were recrystallized from methanol-diethyl ether to give 3-(aminomethyl)-4-butoxy-2-cyclopropylmethyl-1-oxo-1,2-dihydro-6-isoquinolinecarboxamide hydrochloride (0.21 g, 91.3%) as crystals.

reactant | 4-butoxy-3-[[(tert-butoxycarbonyl)amino]methyl]-2-cyclopropylmethyl-1-oxo-1,2-dihydro-6-isoquinolinecarboxamide | 0.6 mmol, 0.27 g | C(CCC)OC1=C(N(C(C2=CC=C(C=C12)C(=O)N)=O)CC1CC1)CNC(=O)OC(C)(C)C | C24H33N3O5
reactant | hydrogen chloride | 4N | Cl | ClH
solvent | ethyl acetate | 5 mL | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 5 mL | C(C)(=O)OCC | C4H8O2
product | 3-(aminomethyl)-4-butoxy-2-cyclopropylmethyl-1-oxo-1,2-dihydro-6-isoquinolinecarboxamide hydrochloride | 0.21 g, 91.3% | Cl.NCC=1N(C(C2=CC=C(C=C2C1OCCCC)C(=O)N)=O)CC1CC1 | InChI=1S/C19H25N3O3.ClH/c1-2-3-8-25-17-15-9-13(18(21)23)6-7-14(15)19(24)22(16(17)10-20)11-12-4-5-12;/h6-7,9,12H,2-5,8,10-11,20H2,1H3,(H2,21,23);1H
